Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abdominal pain, nausea, vomiting 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ presenting with 3 days of crampy abdominal pain and
vomiting. Pt states he noticed pain in his abdomen beginning
___ morning. He cannot localize the pain, denies radiation.
He vomited a few times ___ and ___. He describes the
vomit as dark green/brown, denies frank blood or coffee grounds.
He last vomited last night. He denies fever/chills, or diarrhea.
He has had 2 inguinal hernia operations, one lap, one open,
denies other abdominal surgeries. Reports last BM ___
morning was normal, has not had a BM since then, and does not
recall passing much flatus until just ___ hr ago, which helped
with his pain.   No emesis thus far today, and was able to keep
down 10oz H2O, however, still having crampy abdominal pain and
nausea this afternoon so decided to come in and get evaluated. 
Denies prior episodes of similar pain or emesis, sick contacts,
recent travel, irregular bowel movements prior, recent
significant wt loss or gain.

Has received 1L NS and Zofran in ED. CT demonstrates early 
partail SBO with a
possible gradual transition point in the RLQ. 

 
Past Medical History:
pulmonary granuloma
BPH
CA screening
___ screening colonoscopy (neg for malignancy, internal
hemorrhoids, recommended repeat ___ yrs)

 
Social History:
___
Family History:
Colon cancer
 
Physical Exam:
Physical Exam:
Vitals: 98.7 63 116/67 16 98% RA 
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist
CV: RRR, No M/G/R
PULM: Clear to auscultation b/l, No W/R/R
ABD: Soft, nondistended, minimal discomfort to palpation
diffusely, no rebound or guarding, normoactive bowel sounds, no
palpable masses
Ext: No ___ edema, ___ warm and well perfused
 
Pertinent Results:
___ 10:20AM BLOOD WBC-4.0 RBC-4.15* Hgb-13.3* Hct-40.6 
MCV-98 MCH-32.0 MCHC-32.8 RDW-13.0 RDWSD-46.8* Plt ___
___ 01:44PM BLOOD WBC-7.0 RBC-4.76 Hgb-15.8 Hct-46.4 MCV-98 
MCH-33.2* MCHC-34.1 RDW-13.2 RDWSD-47.8* Plt ___
___ 01:44PM BLOOD Neuts-78.6* Lymphs-14.5* Monos-6.2 
Eos-0.0* Baso-0.3 Im ___ AbsNeut-5.46 AbsLymp-1.01* 
AbsMono-0.43 AbsEos-0.00* AbsBaso-0.02
___ 10:20AM BLOOD Plt ___
___ 01:44PM BLOOD Plt ___
___ 10:20AM BLOOD Glucose-167* UreaN-15 Creat-0.8 Na-138 
K-4.2 Cl-98 HCO3-29 AnGap-11
___ 06:31AM BLOOD Glucose-90 UreaN-14 Creat-0.8 Na-139 
K-4.2 Cl-100 HCO3-29 AnGap-10
___ 01:44PM BLOOD Glucose-111* UreaN-19 Creat-0.9 Na-132* 
K-9.2* Cl-94* HCO3-24 AnGap-14
___ 01:44PM BLOOD ALT-18 AST-50* AlkPhos-27* TotBili-1.5
___ 01:44PM BLOOD Lipase-23
___ 10:20AM BLOOD Calcium-8.9 Phos-2.1* Mg-1.9
___ 06:31AM BLOOD Calcium-8.4 Phos-2.5* Mg-1.9
___ 01:44PM BLOOD Albumin-4.3
___ 06:41AM BLOOD Lactate-0.9
___ 02:05PM BLOOD Lactate-2.0 K-4.___ y/o M with abdominal pain, nausea and vomiting and suggestive 
early SBO and gastroenteritis on CT a/p with h/o previous 
abdominal surgery. Possibly enteritis,although notably he has 
not had diarrhea, chills, fever sick contacts, or recent travel. 
Has had raw fish ingestion the night prior to getting ill, but 
has had no reports of others getting sick who were served the 
same food. If this is a bowel obstruction, it seems to be 
resolving as he is passing flatus and has not had any episodes 
of emesis since admission.

 
Medications on Admission:
None
 
Discharge Medications:
None
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Abdominal pain with nausea and vomiting 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you here at ___ 
___. You were admitted to our hospital for 
abdominal pain, nausea, and vomiting. An abdominal CT scan was 
inconclusive but suggestive of gastroenteritis, which could be 
infectious or inflammatory in etiology, and an early or partial 
small bowel obstruction. While in the hospital you were managed 
conservatively nil per os, resuscitation with continuous fluids, 
and anti-emetic medication. You were later advanced to a regular 
diet which you tolerated well. You have recovered and are now 
ready to be discharged to home. 

Activity: As tolerated

Diet: Regular
 
Followup Instructions:
___